US05334576
Preparation of 5-vinyl-2,3-pyridinedicarboxylic acid, dimethyl ester
A solution of 2 g of 5-(2-chloroethyl)-pyridine-2,3-dicarboxylic acid, dimethyl ester and 0.13 mL diazobicycloundecane (DBU) in 40 mL of toluene is heated at reflux for 11/2 hours, cooled, and filtered. The filtrate is concentrated in vacuo, and the residue is chromatographed on silica gel using hexane-ethyl acetate mixtures to afford the desired product as a colorless oil.

reactant | 5-(2-chloroethyl)-pyridine-2,3-dicarboxylic acid, dimethyl ester | 2 g | ClCCC=1C=C(C(=NC1)C(=O)OC)C(=O)OC | C11H12ClNO4
reactant | diazobicycloundecane | 0.13 mL | [N+](=[N-])=C1C(CCCCCCCCC1)C1CCCCCCCCCC1 | C22H40N2
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | 5-vinyl-2,3-pyridinedicarboxylic acid, dimethyl ester | C(=C)C=1C=C(C(=NC1)C(=O)OC)C(=O)OC | C11H11NO4
